* ======================================================================== 
* THAT 124x series P,S packages
* REV 00 - created on 09/17/2004, by FF
* Rev 01 - created on 06/30/2017, by RB
* Generates parts THAT1240, THAT1243, and THAT1246
* Changed pin names to match datasheet
*
*
*
* DEVICE=THAT1240 P,S 0dB gain Line receiver
* THAT1240 "macromodel" created on 09/17/2004, by FF
*
* connections:    non-inverting input
*                 |   inverting input
*                 |   |   positive power supply
*                 |   |   |   negative power supply
*                 |   |   |   |   output
*                 |   |   |   |   |   Ref voltage or GND
*                 |   |   |   |   |   |   sense
*                 |   |   |   |   |   |   |
.subckt THAT1240 In+ In- V+ V- Out Ref Sens
*
R_R1         In+ 40  9000  
R_R3         In- 50  9000  
R_R4         50 Sens  9000.5692  
R_R2         40 Ref  9000  
D_D13         Sens V+ DPROT 
D_D11         Out V+ DPROT 
D_D9         Ref V+ DPROT 
D_D2         10 In+ DPROT 
D_D1         10 V+ DPROT 
D_D4         11 In- DPROT 
D_D3         11 V+ DPROT 
D_D7         13 In- DPROT 
D_D5         12 In+ DPROT 
D_D8         13 V- DPROT 
D_D6         12 V- DPROT 
D_D10         V- Ref DPROT 
D_D12         V- Out DPROT 
D_D14         V- Sens DPROT 
X_U1         40 50 V+ V- Out OA_33X36706
.ends
*$
* ========================================================================
* DEVICE=THAT1243 P,S -3dB gain Line receiver
* THAT1243 "macromodel" created on 09/17/2004, by FF
*
* connections:    non-inverting input
*                 |   inverting input
*                 |   |   positive power supply
*                 |   |   |   negative power supply
*                 |   |   |   |   Output
*                 |   |   |   |   |   Ref voltage or GND
*                 |   |   |   |   |   |   sense
*                 |   |   |   |   |   |   |
.subckt THAT1243 In+ In- V+ V- Out Ref Sens
*
R_R1         In+ 40  10500  
R_R3         In- 50  10500  
R_R4         50 Sens  7500.405  
R_R2         40 Ref  7500  
D_D13         Sens V+ DPROT 
D_D11         Out V+ DPROT 
D_D9         Ref V+ DPROT 
D_D2         10 In+ DPROT 
D_D1         10 V+ DPROT 
D_D4         11 In- DPROT 
D_D3         11 V+ DPROT 
D_D7         13 In- DPROT 
D_D5         12 In+ DPROT 
D_D8         13 V- DPROT 
D_D6         12 V- DPROT 
D_D10         V- Ref DPROT 
D_D12         V- Out DPROT 
D_D14         V- Sens DPROT 
X_U1         40 50 V+ V- Out OA_33X36706
.ends
*$
* ========================================================================
* DEVICE=THAT1246 P,S -6dB gain Line receiver
* THAT1246 "macromodel" created on 09/17/2004, by FF
*
* connections:    non-inverting input
*                 |   inverting input
*                 |   |   positive power supply
*                 |   |   |   negative power supply
*                 |   |   |   |   Output
*                 |   |   |   |   |   Ref voltage or GND
*                 |   |   |   |   |   |   sense
*                 |   |   |   |   |   |   |
.subckt THAT1246 In+ In- V+ V- Out Ref Sens
*
R_R1         In+ 40  12k  
R_R3         In- 50  12k  
R_R4         50 Sens  6000.285  
R_R2         40 Ref  6k  
D_D13         Sens V+ DPROT 
D_D11         Out V+ DPROT 
D_D9         Ref V+ DPROT 
D_D2         10 In+ DPROT 
D_D1         10 V+ DPROT 
D_D4         11 In- DPROT 
D_D3         11 V+ DPROT 
D_D7         13 In- DPROT 
D_D5         12 In+ DPROT 
D_D8         13 V- DPROT 
D_D6         12 V- DPROT 
D_D10         V- Ref DPROT 
D_D12         V- Out DPROT 
D_D14         V- Sens DPROT 
X_U1         40 50 V+ V- Out OA_33X36706
.ends
*$
* ========================================================================
* DEVICE=OA_33X36706,OPAMP,PNP,INT
* OA_33X36706 operational amplifier "macromodel" subcircuit for THAT124x series
* created using Parts release 8.0 on 09/16/2004 by FF
* Parts is a MicroSim product.
*
* connections:      non-inverting input
*                   | inverting input
*                   | | positive power supply
*                   | | | negative power supply
*                   | | | | Output
*                   | | | | |
.subckt OA_33X36706 1 2 3 4 5
*
   c1   11 12 285.31E-15
  c2    6  7 12.100E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 504.64E3 -1E3 1E3 500E3 -500E3
  ga    6  0 11 12 1.1632E-3
  gcm   0  6 10 99 1.1632E-9
  iee   3 10 dc 147.60E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 859.69
  rc2   4 12 859.69
  re1  13 10 495.25
  re2  14 10 495.25
  ree  10 99 1.3550E6
  ro1   8  5 27
  ro2   7 99 27
  rp    3  4 16.185E3
  vb    9  0 dc 0
  vc    3 53 dc 2.8037
  ve   54  4 dc 2.8037
  vlim  7  8 dc 0
  vlp  91  0 dc 25
  vln   0 92 dc 25
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=60.500)
.model qx2 PNP(Is=800.0000E-18 Bf=60.500)
.ends
*$
* THAT124x models end here
*$
* ========================================================================
* Protection diode model for THAT124x and THAT120x series
*
.MODEL DPROT D (IS=864.10E-18 RS=100 CJO=194.00E-15 M=.42945 BV=60 IBV=1E-10)
*$
*